US04920119
562 mg of 3-amino-2-(3-trifluoromethylphenyl)-4-pyridinecarboxamide were stirred at 0° C. in 5 ml of concentrated hydrochloric acid during the addition of 160 mg of sodium nitrite in 1 ml of water. After 0.5 hour the mixture was diluted with water and ethyl acetate and made basic with sodium hicarbonate. The organic phase was separated, dried over sodium sulphate and evaporated, and the residue was purified by chromatography on silica gel using ethyl acetate/petroleum ether (1:1) for the elution. There were obtained 400 mg of 8-(3-trifluoromethylphenyl)pyrido[3,4-d]-1,2,3-triazin-4(3H)-one in the form of a solid of melting point 192°-193° C. (dec.).

reactant | 3-amino-2-(3-trifluoromethylphenyl)-4-pyridinecarboxamide | 562 mg | NC=1C(=NC=CC1C(=O)N)C1=CC(=CC=C1)C(F)(F)F | C13H10F3N3O
reactant | sodium nitrite | 160 mg | N(=O)[O-].[Na+]
reactant | sodium | [Na] | Na
solvent | hydrochloric acid | 5 ml | Cl | ClH
solvent | water | 1 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-(3-trifluoromethylphenyl)pyrido[3,4-d]-1,2,3-triazin-4(3H)-one | 400 mg | FC(C=1C=C(C=CC1)C1=NC=CC2=C1N=NNC2=O)(F)F | C13H7F3N4O
